US04297480
Reaction of 1-(3-pentyl)-4,4-diethyl-2-aza-1,3-butadiene [produced by reaction of 2-ethylbutyraldehyde with ammonia, according to the U.S. Pat. No. 2,319,848] with 1,3-butadiene to 3,3-diethyl-12-(3-pentyl)-1-aza-1,5,9-cyclododecatriene (b.p. 90°-92° C./0.13 Pa; nD20 =1.4840), and hydrogenation to give 3,3-diethyl-12-(3-pentyl)-1-aza-cyclododecene; b.p. 95° C./4 Pa.

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | 3,3-diethyl-12-(3-pentyl)-1-aza-1,5,9-cyclododecatriene | C(C)C1(C=NC(CC=CCCC=CC1)C(CC)CC)CC | C20H35N
product | 3,3-diethyl-12-(3-pentyl)-1-aza-cyclododecene | C(C)C1(C=NC(CCCCCCCC1)C(CC)CC)CC | C20H39N
